US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 3,4-dimethoxy-phenylboronic acid to give [1-(3,4-dimethoxy-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine. LC-MS m/e 347(MH+).

reactant | (1-chloro-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C12H9ClN4
reactant | 3,4-dimethoxy-phenylboronic acid | COC=1C=C(C=CC1OC)B(O)O | C8H11BO4
product | [1-(3,4-dimethoxy-phenyl)-isoquinolin-3-yl]-(1H-pyrazol-3-yl)-amine | COC=1C=C(C=CC1OC)C1=NC(=CC2=CC=CC=C12)NC1=NNC=C1 | C20H18N4O2
